US07173048B2
To a solution of 19 mg (0.036 mmol) of 2-[2-methyl-5-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-2,3-dihydro-indol-1-yl]-2-phenyl-ethanol in 0.5 mL THF were added 0.043 mL (0.043 mmol) of a 1M TBAF solution in THF. After stirring at RT for 24 hrs the mixture was distributed between Et2O and a saturated aqueous solution of NH4Cl. The combined organic phases were dried over Na2SO4 and evaporated. Column chromatography on silica gel with n-heptane/EtOAc 2:1 yielded 9.3 mg (62%) of 1,1,1,3,3,3-hexafluoro-2-[1-(2-hydroxy-1-phenyl-ethyl)-2-methyl-2,3-dihydro-1H-indol-5-yl]-propan-2-ol, yellow viscous oil, MS: 420 (MH+).

reactant | 2-[2-methyl-5-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-2,3-dihydro-indol-1-yl]-2-phenyl-ethanol | 0.036 mmol, 19 mg | CC1N(C2=CC=C(C=C2C1)C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC)C(CO)C1=CC=CC=C1 | C26H33F6NO2Si
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | Et2O | CCOCC | C4H10O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 1,1,1,3,3,3-hexafluoro-2-[1-(2-hydroxy-1-phenyl-ethyl)-2-methyl-2,3-dihydro-1H-indol-5-yl]-propan-2-ol | 9.3 mg, 62% | FC(C(C(F)(F)F)(O)C=1C=C2CC(N(C2=CC1)C(CO)C1=CC=CC=C1)C)(F)F | C20H19F6NO2
